US06951875B2
trans-6-Styryl-pyridin-3-yl-amine
Under inert atmosphere (Ar) a mixture of palladium(II)-acetate (0.45 g , 2 mmol) and triphenylphosphine (0.95 g, 3.6 mmol) in DMF (50 ml) was stirred for 0.5 hr at rt. Then 2-chloro-5-nitropyridine (3.2 g, 20 mmol) and tributyl-styryl-stannane (15.7 g, 40 mmol) was added and the mixture was stirred at 130° C. for 15 hr. The solvent was evaporated and the residue partitioned between AcOEt and 1N HCl. The aqueous phase was neutralized with 6N NaOH and extracted with AcOEt. The organic phase was dried with Na2SO4, concentrated and chromatographed (SiO2 with CH2Cl2/CH3OH=97/3) to (give the title compound (0.90 g, 23%) as a yellow solid. Mp. 159-160° C. (AcOEt), MS: 196 (M+).

reactant | triphenylphosphine | 3.6 mmol, 0.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chloro-5-nitropyridine | 20 mmol, 3.2 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | tributyl-styryl-stannane | 40 mmol, 15.7 g | C(CCC)[Sn](C=CC1=CC=CC=C1)(CCCC)CCCC
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | palladium(II)-acetate | 2 mmol, 0.45 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | trans-6-Styryl-pyridin-3-yl-amine | 0.90 g, 23% | C(=C\C1=CC=CC=C1)/C1=CC=C(C=N1)N | C13H12N2
